US05254558
To a solution of 2-[5-benzyloxycarbonylamino-6-oxo-2-(2-thienyl)-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide in dichloromethane (35 mL) and anisole (1.2 mL) at 0° C. was added trifluoromethanesulfonic acid, and the resulting suspension was stirred for 15 minutes. The reaction was quenched by addition of sodium bicarbonate and the product extracted into ethyl acetate. The organic layer was washed (brine) and dried. The solvent was removed and the residue was purified by chromatography, with methanol:dichloromethane (gradient, 5:95, 7:93) as the eluent, to provide 2-[5-amino-6-oxo-2-(2-thienyl)-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide as a yellow solid; 300 MHz NMR (DMSO/D2O): 7.94 (d,1), 7.65 (d,1), 7.30 (s,1), 7.22 (d,1), 7.02 (m,1), 4.84 (d,1), 4.69 (d,1), 4.07 (d,1), 2.24 (m,1), 0.89(d, 3), 0.76 (d,3).

reactant | 2-[5-benzyloxycarbonylamino-6-oxo-2-(2-thienyl)-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C=1SC=CC1 | C24H23F3N4O5S
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | anisole | 1.2 mL | C1(=CC=CC=C1)OC | C7H8O
product | 2-[5-amino-6-oxo-2-(2-thienyl)-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C=1SC=CC1 | C16H17F3N4O3S
